US05985882
Preparation of 5-(3-butenyl)-7-(4-pyridylmethoxy)-pyrazolo[1,5-a]pyrimidine
60% sodium hydride, 0.55 g, was added to a 10 ml-solution of 1.6 g of 4-(hydroxymethyl)pyridine in DMF while being ice-cooled. After the mixture was stirred at 0° C. for 30 minutes, a DMF solution (2.5 ml) containing 2.6 g of 5-(3-butenyl)-7-chloropyrazolo[1,5-a]pyrimidine was added dropwise while being ice-cooled. The mixture was stirred at the same temperature for another 1 hour. After completion of the reaction, water was added to the reaction mixture. The crystals precipitated were collected by filtration and washed with water and then with diethyl ether. The crude crystals obtained were recrystallized from ethyl acetate-n-hexane to provide 1.5 g of the title compound as colorless crystals. The structure and melting point of the compound obtained are shown in Table 1.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(hydroxymethyl)pyridine | 1.6 g | OCC1=CC=NC=C1 | C6H7NO
reactant | 5-(3-butenyl)-7-chloropyrazolo[1,5-a]pyrimidine | 2.6 g | C(CC=C)C1=NC=2N(C(=C1)Cl)N=CC2 | C10H10ClN3
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 5-(3-butenyl)-7-(4-pyridylmethoxy)-pyrazolo[1,5-a]pyrimidine | 1.5 g | C(CC=C)C1=NC=2N(C(=C1)OCC1=CC=NC=C1)N=CC2 | C16H16N4O
